US04723986
2-m-Chlorophenyl-3-(3-trifluoromethyl-4-fluorophenyl)-5-ethyl oxazolidine
Meta-chlorobenzaldehyde (2.3 g, 0.016 mole) was combined with 5 g of 1-(3-trifluoromethyl-4-fluorophenylamino)-2-butanol and 3 drops of methane sulfonic acid was added. The mixture was heated on the steam bath for about one hour and stripped on the rotary evaporator. The product, a sticky, thick liquid, was characterized by IR and NMR.

reactant | Meta-chlorobenzaldehyde | 0.016 mole, 2.3 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1-(3-trifluoromethyl-4-fluorophenylamino)-2-butanol | 5 g | FC(C=1C=C(C=CC1F)NCC(CC)O)(F)F | C11H13F4NO
catalyst | methane sulfonic acid | 3 drops | CS(=O)(=O)O | CH4O3S
product | 2-m-Chlorophenyl-3-(3-trifluoromethyl-4-fluorophenyl)-5-ethyl oxazolidine | ClC=1C=C(C=CC1)C1OC(CN1C1=CC(=C(C=C1)F)C(F)(F)F)CC | C18H16ClF4NO
